US07524843B2
a) 1,2,3,4-Tetrahydro-1,8-naphthyridine
1,8-Naphthyridine (1.0 g, 7.68 mmole) was hydrogenated (50 psi) with 10% Pd/C (100 mg) in absolute ethanol (40 mL) for 18 hr. The mixture was filtered through a pad of Celite® and the filtrate was concentrated to give the title compound (1.04 g) which was sufficiently pure for use in the next step: MS (ES) m/e 135 (M+H)+.

reactant | 1,8-Naphthyridine | 7.68 mmole, 1.0 g | N1=CC=CC2=CC=CN=C12 | C8H6N2
solvent | ethanol | 40 mL | C(C)O | C2H6O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 1,2,3,4-Tetrahydro-1,8-naphthyridine | 1.04 g | N1CCCC2=CC=CN=C12 | C8H10N2
